US08604034B2
To a chilled (0° C.) solution of 1-(5-methylpyrazin-2-yl)-2-(1H-pyrrol-1-yl)ethanone (318 mg, 1.58 mmol) in CH2Cl2 (21 mL) was added 2,2,2-trichloroacetyl chloride (400 μL, 3.56 mmol). The solution was allowed at room temperature and stirred until complete (overnight, monitored by LCMS). A chilled saturated solution of NaHCO3 (15 mL) was then added and the mixture extracted with CH2Cl2 (3×15 mL). The organic were dried (Na2SO4), filtrated and concentrated in vacuo to give a residue that is purified by flash chromatography (Biotage SP4, 4 g cartridge, gradient 1 CV hexane, 0-50% EtOAc in hexanes 10 CV; 50-100% 3CV). The compound 2,2,2-Trichloro-1-{1-[2-(5-methylpyrazin-2-yl)-2-oxoethyl]-1H-pyrrol-2-yl}ethanone was isolated as a crystalline solid (260 mg, yield 38%). 1H-NMR (400 MHz, CDCl3): δ 2.70 (s, 3H), 5.91 (2H, s), 6.45 (dd, 1H, J 4.4, 2.5, Hz), 7.02 (dd, 1H, J 2.4, 1.6 Hz), 7.64 (dd, 1H, J 4.4, 1.5 Hz), 8.53-8.55 (m, 1H), 9.15 (d, 1H, J 1.3 Hz).

reactant | 1-(5-methylpyrazin-2-yl)-2-(1H-pyrrol-1-yl)ethanone | 1.58 mmol, 318 mg | CC=1N=CC(=NC1)C(CN1C=CC=C1)=O | C11H11N3O
reactant | 2,2,2-trichloroacetyl chloride | 3.56 mmol, 400 μL | ClC(C(=O)Cl)(Cl)Cl | C2Cl4O
reactant | NaHCO3 | 15 mL | C(=O)(O)[O-].[Na+]
solvent | CH2Cl2 | 21 mL | C(Cl)Cl | CH2Cl2
product | 2,2,2-Trichloro-1-{1-[2-(5-methylpyrazin-2-yl)-2-oxoethyl]-1H-pyrrol-2-yl}ethanone | ClC(C(=O)C=1N(C=CC1)CC(=O)C1=NC=C(N=C1)C)(Cl)Cl | C13H10Cl3N3O2
